US08242153B2
To a stirred solution of (S)-4-{(Z)-2-[1-(3,5-difluoro-phenyl)-cyclopropyl]-vinyl}-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (0.5 g) at room temperature in methanol (10 ml) under an argon atmosphere were added palladium on charcoal (10%, 30 mg) and ammonium formate (1.33 g). The mixture was stirred at room temperature overnight. The catalyst was filtered off, the filtrate was concentrated, ethyl acetate was added and the mixture was washed with water. The organic layer was separated, dried over magnesium sulphate and concentrated to give (S)-4-[3-(3,5-difluoro-phenyl)-pentyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (0.5 g) as a light yellow liquid. MS (ISP): 384.3 ([M+H]+).

reactant | (S)-4-{(Z)-2-[1-(3,5-difluoro-phenyl)-cyclopropyl]-vinyl}-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 0.5 g | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1\C=C/C1(CC1)C1=CC(=CC(=C1)F)F)(C)C | C21H27F2NO3
reactant | ammonium formate | 1.33 g | C(=O)[O-].[NH4+]
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium on charcoal | 30 mg | [Pd] | Pd
product | (S)-4-[3-(3,5-difluoro-phenyl)-pentyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 0.5 g | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CCC(CC)C1=CC(=CC(=C1)F)F)(C)C | C21H31F2NO3
